US04001238
4-Amino-6,7-dimethoxy-2-[4-(5-ethylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride
The title compound was prepared from 5-ethylthio-1,3,4-oxadiazole-2-carbonyl chloride (0.79 g., 4.1 mmole) and 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (1.19 g., 4.1 mmole) following the procedure described in Example 1. The product had a M.P. of 246°-248.5° C.

reactant | 5-ethylthio-1,3,4-oxadiazole-2-carbonyl chloride | 4.1 mmole, 0.79 g | C(C)SC1=NN=C(O1)C(=O)Cl | C5H5ClN2O2S
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 4.1 mmole, 1.19 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(5-ethylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1OC(=NN1)SCC | InChI=1S/C19H23N7O4S.ClH/c1-4-31-19-24-23-16(30-19)17(27)25-5-7-26(8-6-25)18-21-12-10-14(29-3)13(28-2)9-11(12)15(20)22-18;/h9-10H,4-8H2,1-3H3,(H2,20,21,22);1H
